US04816467
3-[1-(3-amino-phenyl)-1,4-dihydro-[1]-benzothiopyrano[4,3-c]pyrazol-3-yl]-2-cyano-3-oxo-N-phenyl-propanamide (1.9 g) dissolved in dimethylformamide (25 ml) is reacted with acetic anhydride (5 ml) in the presence of pyridine (5 ml) at room temperature for 20 hours. The reaction mixture is diluted with ice water and the precipitate is filtered and washed with water: crystallization from dimethylformamide-ethanol gives 1.6 g of 3-[1-(3-acetylamino-)phenyl)-1,4-dihydro-[1]-benzothiopyrano[4,3-c]pyrazol-3-yl]-2-cyano-3-oxo-N-phenyl-propanamide.

reactant | 3-[1-(3-amino-phenyl)-1,4-dihydro-[1]-benzothiopyrano[4,3-c]pyrazol-3-yl]-2-cyano-3-oxo-N-phenyl-propanamide | 1.9 g | NC=1C=C(C=CC1)N1N=C(C2=C1C1=C(SC2)C=CC=C1)C(C(C(=O)NC1=CC=CC=C1)C#N)=O | C26H19N5O2S
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 2-cyano-3-oxo-N-phenyl-propanamide | C(#N)C(C(=O)NC1=CC=CC=C1)C=O | C10H8N2O2
